US09062028B2
Step B. 2-(4-Bromo-1H-pyrazol-1-yl)-2-methylpropan-1-ol
To a solution of ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-methylpropanoate (0.8 g, 3.06 mmol) in MeOH (10 mL) was added sodium borohydride (0.348 g, 9.19 mmol). The reaction was stirred at room temperature for 3 h and quenched with saturated NH4Cl solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (0.6 g, 89% yield) as a white powder. LCMS, [M+H]+=219.0.

reactant | ethyl 2-(4-bromo-1H-pyrazol-1-yl)-2-methylpropanoate | 3.06 mmol, 0.8 g | BrC=1C=NN(C1)C(C(=O)OCC)(C)C | C9H13BrN2O2
reactant | sodium borohydride | 9.19 mmol, 0.348 g | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(4-Bromo-1H-pyrazol-1-yl)-2-methylpropan-1-ol | 0.6 g, 89% yield | BrC=1C=NN(C1)C(CO)(C)C | C7H11BrN2O
